US06559167B1
Preparation of 2-(4-{[2-({[3-methyl-4-(2,2,2-trifluoroethoxy)-2-pyridyl]methyl}sulfinyl)benzimidazol-1-yl]sulfonyl}phenoxy)-N-(2-pyridyl)acetamide
2-[[ [3-Methyl-4-(2,2,2-trifluoroethoxy)-2-pyridyl]methyl]sulfinyl]-1H-benzimidazole (185 mg) dissolved in 20 ml of dichloromethane and 0.2 ml of triethylamine was added to 170 mg of 2-[p-(chlorosulfonyl)phenoxy]-N-(2-pyridyl)acetamide. The reaction mixture was washed with water. Organic layer was dried over anhydrous magnesium sulfate, and evaporated. Residual material was lyophilized to give 237 mg of the titled product. M.P. 78-81° C.

reactant | 2-[[ [3-Methyl-4-(2,2,2-trifluoroethoxy)-2-pyridyl]methyl]sulfinyl]-1H-benzimidazole | 185 mg | CC=1C(=NC=CC1OCC(F)(F)F)CS(=O)C1=NC2=C(N1)C=CC=C2 | C16H14F3N3O2S
reactant | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
reactant | 2-[p-(chlorosulfonyl)phenoxy]-N-(2-pyridyl)acetamide | 170 mg | ClS(=O)(=O)C1=CC=C(OCC(=O)NC2=NC=CC=C2)C=C1 | C13H11ClN2O4S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-(4-{[2-({[3-methyl-4-(2,2,2-trifluoroethoxy)-2-pyridyl]methyl}sulfinyl)benzimidazol-1-yl]sulfonyl}phenoxy)-N-(2-pyridyl)acetamide | 237 mg | CC=1C(=NC=CC1OCC(F)(F)F)CS(=O)C1=NC2=C(N1S(=O)(=O)C1=CC=C(OCC(=O)NC3=NC=CC=C3)C=C1)C=CC=C2 | C29H24F3N5O6S2
